US06015825
A mixture of 2-(2,4-difluorophenyl)-3-(4-iodophenyl)-1-(1,2,4-triazol-1-yl)-3-buten-2-ol (7.0 g, 15.5 mmol-see Preparation 20), trimethylsilylacetylene (2.6 ml, 18.5 mmol), cuprous iodide (0.015 g, 0.15 mmol), bis(triphenylphosphine) palladium (II) dichloride (0.21 g, 0.3 mmol) and triethylamine (80 ml) was stirred at room temperature under a nitrogen atmosphere for 24 hours. Volatile materials were removed under reduced pressure and the residue was partitioned between dichloromethane (200 ml) and a solution of ethylenediaminetetraacetic acid (2 g) in water (100 ml). The organic phase was dried (MgSO4) and evaporated under reduced pressure. The crude product was chromatographed on silica by elution with dichloromethanelmethanol (95:5). Fractions containing the desired product were combined and evaporated under reduced pressure to give 2-(2,4-difluorophenyl)-3-(4-[trimethylsilylethynyl]phenyl)-1-(1,2,4-triazol-1-yl)-3-buten-2-ol (6.4 g, 98%) as a yellow foam which was characterised by 1H-N.M.R. spectroscopy, (300 MHz, CDCl3): δ=0.22 (s,9H), 4.57 (d,1H), 4.89 (d,1H), 5.16 (s,1H), 5.26 (d,2H), 6.60-6.80 (m,2H), 7.21 (d,2H), 7.38 (d,2H), 7.42 (m,1H), 7.80 (s,2H) ppm.

reactant | 2-(2,4-difluorophenyl)-3-(4-iodophenyl)-1-(1,2,4-triazol-1-yl)-3-buten-2-ol | 15.5 mmol, 7.0 g | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(=C)C1=CC=C(C=C1)I)O | C18H14F2IN3O
reactant | trimethylsilylacetylene | 18.5 mmol, 2.6 ml | C[Si](C)(C)C#C | C5H10Si
catalyst | bis(triphenylphosphine) palladium (II) dichloride | 0.3 mmol, 0.21 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | triethylamine | 80 ml | C(C)N(CC)CC | C6H15N
product | 2-(2,4-difluorophenyl)-3-(4-[trimethylsilylethynyl]phenyl)-1-(1,2,4-triazol-1-yl)-3-buten-2-ol | 6.4 g, 98% | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(=C)C1=CC=C(C=C1)C#C[Si](C)(C)C)O | C23H23F2N3OSi
